US05168103
To a solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (4.00 g, 23.5 mmol) in ethanol (100 mL) was added 2-aminoethylphosphonic acid diethyl ester (5.43 g, 30.0 mmol) in ethanol (100 mL) over a 1 hour period. After leaving overnight the reaction mixture was preadsorbed onto silica gel and purified by flash chromatography (5.5 cm diameter, gradient elution with 2.5-10% isopropanol in dichloromethane) to yield [2-[(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]ethyl]phosphonic acid diethyl ester as an oil which solidifies on standing (3.98 g, 55%, mp 66°-68° C.); IR (KBr, cm-1): 3400, 3180, 1800, 1700, 1600; MS (+FAB): 306 (MH+, 100), 278 (14), 137 (14), 109 (35); 1H NMR (CDCl3, 400 MHz): δ 6.58, 6.46 (br s, NH), 4.75 (br m, 2H), 4.21- 4.07 (m, 4H), 4.00, 3.75 (br m, 2H), 2.08 (d of t, J=17.5 and 6.5 Hz, 2H), 1.46 (br m, 3H), 1.35 (t, J=7 Hz, 6H).

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 23.5 mmol, 4.00 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | 2-aminoethylphosphonic acid diethyl ester | 30.0 mmol, 5.43 g | C(C)OP(OCC)(=O)CCN | C6H16NO3P
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | [2-[(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]ethyl]phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCNC1=C(C(C1=O)=O)OCC | C12H20NO6P
